US07371872B2
Ethyl (6S)-4-oxo-2-thiabicyclo[3.1.0]hexane-6-carboxylate
To a solution of dimethylsulfoxide (33.4 mL, 471 mmol) in 194 mL of methylene chloride at −70° C. is slowly added a solution of trifluoracetic anhydride (33.2 mL, 235 mmol) in 73 mL of methylene chloride over 30 minutes (temperature maintained below −66° C.). After stirring for 20 min, a solution of ethyl (4S,6S)-4-hydroxy-2-thiabicyclo[3.1.0]hexane-6-carboxylate (34.1 g, 181 mmol) in 194 mL of methylene chloride is added over 60 minutes such that the temperature is maintained below 60° C. After stirring for 1 hour, the reaction is treated with triethylamine (75.7 mL, 543 mmol) over 35 minutes such that the temperature remains below −50° C. The reaction is allowed to stir an additional 1 hour, at which time the cooling bath is removed and 400 mL of 2 N hydrochloric acid is added. Upon warming to 0° C., the layers are separated and the organic layer is washed with 2N hydrochloric acid (1×300 mL), 1N aqueous sodium bicarbonate (1×670 mL), and water (1×300 mL) followed by drying over sodium sulfate, filtering, and concentrating in vacuo to a red oil which solidifies upon standing. The crude product is applied to a pad of silica gel (2 g per 1 g of starting alcohol packed with methylene chloride) and eluted with methylene chloride (200-300 mL). All fractions containing product are collected and concentrated to provide the title compound as an orange/brown solid. Typical corrected yields are in the 85-90% range.

reactant | dimethylsulfoxide | 471 mmol, 33.4 mL | CS(=O)C | C2H6OS
reactant | trifluoracetic anhydride | 235 mmol, 33.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl (4S,6S)-4-hydroxy-2-thiabicyclo[3.1.0]hexane-6-carboxylate | 181 mmol, 34.1 g | O[C@@H]1CSC2[C@@H](C12)C(=O)OCC | C8H12O3S
reactant | triethylamine | 543 mmol, 75.7 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 194 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 73 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 194 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (6S)-4-oxo-2-thiabicyclo[3.1.0]hexane-6-carboxylate | O=C1CSC2[C@@H](C12)C(=O)OCC | C8H10O3S
